US08309730B2
To a stirred solution of thionyl chloride (18 mL) in anhydrous methylene chloride (180 mL) was added (4-(4-fluorophenyl)-1H-imidazol-1-yl)methanol (11.4 g, 59 mmol) portionwise at RT under nitrogen. The reaction mixture was stirred at RT for 3.5 hr before anhydrous toluene (90 mL) was added. The mixture was stirred at RT for 30 min. Concentration under reduced pressure gave 1-(chloromethyl)-4-(4-fluorophenyl)-1H-imidazole hydrochloride (14.5 g, 59 mmol, 100% yield) as a solid. MS found: (M+H)+=211.3.

reactant | thionyl chloride | 18 mL | S(=O)(Cl)Cl | Cl2OS
reactant | (4-(4-fluorophenyl)-1H-imidazol-1-yl)methanol | 59 mmol, 11.4 g | FC1=CC=C(C=C1)C=1N=CN(C1)CO | C10H9FN2O
reactant | toluene | 90 mL | C1(=CC=CC=C1)C | C7H8
solvent | methylene chloride | 180 mL | C(Cl)Cl | CH2Cl2
product | 1-(chloromethyl)-4-(4-fluorophenyl)-1H-imidazole hydrochloride | 59 mmol, 14.5 g, 100% yield | Cl.ClCN1C=NC(=C1)C1=CC=C(C=C1)F | InChI=1S/C10H8ClFN2.ClH/c11-6-14-5-10(13-7-14)8-1-3-9(12)4-2-8;/h1-5,7H,6H2;1H
